data/polar.json
{"reaction_name": "Aza-Michael addition", "rsmi": "[NH:1]1[CH:7]([C:19](=[O:10])[O-:17])[CH2:12][CH2:18][CH2:8]1.[O:2]=[N+:21]([O-:9])[c:15]1[cH:3][cH:5][c:11]([CH:16]=[CH:13][N+:14]([O-:20])=[O:22])[cH:6][cH:4]1>>[NH+:1]1([CH:16]([c:11]2[cH:5][cH:3][c:15]([N+:21](=[O:2])[O-:9])[cH:4][cH:6]2)[CH:13]=[N+:14]([O-:20])[O-:22])[CH:7]([C:19](=[O:10])[O-:17])[CH2:12][CH2:18][CH2:8]1", "epd": [["LP-/Sigma+", [1], [1, 16]], ["Pi-/Pi+", [16, 13], [13, 14]], ["Pi-/LP+", [14, 22], [22]]]}
{"reaction_name": "Vinyl cation capture", "rsmi": "[CH2:1]=[C+:2][CH3:4].[Cl-:3]>>[CH2:1]=[C:2]([Cl:3])[CH3:4]", "epd": [["LP-/Sigma+", [3], [2, 3]]]}
{"reaction_name": "Ionic deoxyfluorination", "rsmi": "[CH3:2][CH2:6][O:4][H:5].[H:1][F:3]>>[CH3:2][CH2:6][F:3].[H:1][O:4][H:5]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [1, 4]], ["Sigma-/LP+", [1, 3], [3]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:1][C:7]([CH3:2])=[N+:12]([O-:19])[O-:20].[cH:3]1[cH:4][cH:14][cH:6][c:8]2[c:5]1[N+:18]([CH3:10])=[CH:13][C:11]2=[CH:9][c:17]1[cH:15][cH:21][cH:23][cH:22][cH:16]1>>[CH3:1][C:7]([CH3:2])([CH:9]([c:11]1[c:8]2[c:5]([cH:3][cH:4][cH:14][cH:6]2)[n:18]([CH3:10])[cH:13]1)[c:17]1[cH:15][cH:21][cH:23][cH:22][cH:16]1)[N+:12](=[O:19])[O-:20]", "epd": [["LP-/Pi+", [19], [12, 19]], ["Pi-/Sigma+", [7, 12], [7, 9]], ["Pi-/Pi+", [9, 11], [11, 13]], ["Pi-/LP+", [13, 18], [18]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:2]=[N+:21]([O-:10])[c:16]1[cH:3][cH:5][c:12]([CH:17]=[CH:14][N+:15]([O-:20])=[O:22])[cH:6][cH:4]1.[cH:1]1[cH:8][c:9]2[c:23]([cH:13][cH:24]1)[CH:19]=[CH:7][CH:18]2[Li:11]>>[Li+:11].[cH:1]1[cH:8][c:9]2[c:23]([cH:13][cH:24]1)[CH:19]=[CH:7][CH:18]2[CH:17]([c:12]1[cH:5][cH:3][c:16]([N+:21](=[O:2])[O-:10])[cH:4][cH:6]1)[CH:14]=[N+:15]([O-:20])[O-:22]", "epd": [["Sigma-/Sigma+", [18, 11], [18, 17]], ["Pi-/Pi+", [17, 14], [14, 15]], ["Pi-/LP+", [15, 22], [22]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:2](#[N:10])[C:15]([C:3]#[N:11])=[CH:4][c:19]1[cH:7][cH:13][cH:20][cH:14][cH:8]1.[NH:1]1[CH:5]([C:18](=[O:9])[O-:16])[CH2:12][CH2:17][CH2:6]1>>[NH+:1]1([CH:4]([C:15](=[C:2]=[N-:10])[C:3]#[N:11])[c:19]2[cH:7][cH:13][cH:20][cH:14][cH:8]2)[CH:5]([C:18](=[O:9])[O-:16])[CH2:12][CH2:17][CH2:6]1", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/Pi+", [4, 15], [15, 2]], ["Pi-/LP+", [2, 10], [10]]]}
{"reaction_name": "Phosphine-mediated alcohol halogenation", "rsmi": "[Br:22][Br:23].[CH3:16][CH2:25][O:20][H:24].[cH:1]1[c:7]([P:21]([c:8]2[cH:3][cH:12][cH:18][cH:13][cH:4]2)[c:9]2[cH:5][cH:14][cH:19][cH:15][cH:6]2)[cH:2][cH:11][cH:17][cH:10]1>>[Br:23][H:24].[CH3:16][CH2:25][Br:22].[cH:1]1[c:7]([P:21]([c:8]2[cH:3][cH:12][cH:18][cH:13][cH:4]2)([c:9]2[cH:5][cH:14][cH:19][cH:15][cH:6]2)=[O:20])[cH:2][cH:11][cH:17][cH:10]1", "epd": [["LP-/Sigma+", [22], [22, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Sigma+", [20], [20, 21]], ["Sigma-/LP+", [22, 23], [22]], ["LP-/Pi+", [21], [20, 21]], ["Sigma-/Sigma+", [20, 24], [23, 24]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:2][cH:27][c:3]2[c:4]([c:13](=[O:11])[c:15](=[N+:14]=[N-:5])[c:12]2=[O:10])[cH:26]1.[cH:6]1[c:16]([CH+:30][c:17]2[cH:7][c:20]([F:24])[cH:29][c:21]([F:25])[cH:8]2)[cH:9][c:18]([F:22])[cH:28][c:19]1[F:23]>>[cH:1]1[cH:2][cH:27][c:3]2[c:4]([cH:26]1)[C:13](=[O:11])[C:15]([N+:14]#[N:5])([CH:30]([c:16]1[cH:6][c:19]([F:23])[cH:28][c:18]([F:22])[cH:9]1)[c:17]1[cH:7][c:20]([F:24])[cH:29][c:21]([F:25])[cH:8]1)[C:12]2=[O:10]", "epd": [["LP-/Pi+", [5], [14, 5]], ["Pi-/Sigma+", [15, 14], [15, 30]]]}
{"reaction_name": "Imidazolide formation", "rsmi": "[H:1][O:4][C:12]([CH3:3])=[O:11].[O:2]=[C:16]([n:13]1[cH:7][cH:5][n:15][cH:9]1)[CH:14]1[N:6]=[CH:10][N:17]=[CH:8]1>>[CH3:3][C:12]([n:6]1[cH:10][n:17][cH:8][cH:14]1)=[O:11].[H:1][n:13]1[cH:7][cH:5][n:15][cH:9]1.[O:2]=[C:16]=[O:4]", "epd": [["LP-/Pi+", [17], [10, 17]], ["Pi-/LP+", [6, 10], [6]], ["LP-/Sigma+", [6], [6, 12]], ["Pi-/LP+", [11, 12], [11]], ["LP-/Pi+", [11], [11, 12]], ["Sigma-/LP+", [4, 12], [4]], ["LP-/Sigma+", [4], [4, 16]], ["Pi-/LP+", [2, 16], [2]], ["LP-/Pi+", [2], [2, 16]], ["Sigma-/LP+", [13, 16], [13]], ["LP-/Sigma+", [13], [1, 13]], ["Sigma-/LP+", [1, 4], [4]], ["Pi-/LP+", [8, 17], [17]], ["Sigma-/LP+", [14, 16], [14]], ["LP-/Pi+", [14], [8, 14]], ["LP-/Pi+", [4], [4, 16]]]}
